US06071927
(±)-1-(Phenylmethoxycarbonyl)-2-phenylpiperidin-3-one
Dimethyl sulfoxide (9.1 mL, 10.0 g, 128.6 mmol) in dichloromethane (50 mL) was added slowly to a cooled (-75° C.) solution of oxalyl chloride (6.9 mL, 10.2 g, 80.4 mmol) in dichloromethane (500 mL). The mixture was stirred at -75° C. for 15 min., then (2R,3R)-1-(phenylmethoxycarbonyl)-2-phenylpiperidin-3-ol (Description 79, 20.0 g, 64.3 mmol) was added slowly. The mixture was stirred at -75° C. for 1 h., then triethylamine (27 mL, 19.5 g, 192.9 mmol) was added. The mixture was stirred at -75° C. for 1 h., then at room temperature overnight. The mixture was washed with aqueous citric acid (1M), aqueous sodium hydrogen carbonate, water, and brine, dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as a yellow oil (19.56 g, 98%). 1H NMR (250 MHz, CDCl3) δ7.39-7.20 (10 H, m), 5.74 (1 H, br s), 5.17 (2 H, br s), 4.13 (1 H, br s), 3.40 (1 H, br m), 2.47 (2 H, m), and 1.94 (2 H, m).

reactant | Dimethyl sulfoxide | 128.6 mmol, 9.1 mL, 10.0 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 80.4 mmol, 6.9 mL, 10.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2R,3R)-1-(phenylmethoxycarbonyl)-2-phenylpiperidin-3-ol | 64.3 mmol, 20.0 g | C1(=CC=CC=C1)COC(=O)N1[C@@H]([C@@H](CCC1)O)C1=CC=CC=C1 | C19H21NO3
reactant | triethylamine | 192.9 mmol, 27 mL, 19.5 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | (±)-1-(Phenylmethoxycarbonyl)-2-phenylpiperidin-3-one | 19.56 g, 98% | C1(=CC=CC=C1)COC(=O)N1C(C(CCC1)=O)C1=CC=CC=C1 | C19H19NO3
